US06992087B2
Preparation of (4E) and (4Z)-5-ethyl-6,7-dihydro-1-benzofuran-4(5H)-one oxime
Following the procedure for the preparation of (4E)-2,3-dihydro-4H-chromen-4-one oxime but substituting 5-ethyl-6,7-dihydro-1-benzofuran-4(5H)-one and making non-critical variations provided the title compound as a oil: MS (EI) m/z (rel. intensity) 179 (M+, 21), 162 (50), 151 (43), 135 (99), 134 (99), 107 (86), 106 (83), 84 (34), 79 (35), 52 (47), 51(48). HRMS (FAB) calcd for C10H13NO2+H 180.1024, found 180.1015.

reactant | (4E)-2,3-dihydro-4H-chromen-4-one oxime | O1CC\C(\C2=CC=CC=C12)=N/O | C9H9NO2
reactant | 5-ethyl-6,7-dihydro-1-benzofuran-4(5H)-one | C(C)C1CCC2=C(C=CO2)C1=O | C10H12O2
product | (4Z)-5-ethyl-6,7-dihydro-1-benzofuran-4(5H)-one oxime | C(C)C/1CCC2=C(C=CO2)\C1=N/O | C10H13NO2
